US05728686
Diethyl [3-(7-ethoxymethyl-3-methylxanthin-1-yl)propyl]phosphonate
The title substance was prepared from 0.048 mol of 7-ethoxymethyl-3-methylxanthine and 0.058 mol of diethyl 3-bromopropanephosphonate analogously to Example 32 and chromatographed on silica gel (eluent: ethyl acetate/methanol 10:1).

reactant | 7-ethoxymethyl-3-methylxanthine | 0.048 mol | C(C)OCN1C=NC=2N(C(NC(C12)=O)=O)C | C9H12N4O3
reactant | diethyl 3-bromopropanephosphonate | 0.058 mol | BrCCCP(OCC)(=O)OCC | C7H16BrO3P
product | Diethyl [3-(7-ethoxymethyl-3-methylxanthin-1-yl)propyl]phosphonate | C(C)OCN1C=NC=2N(C(N(C(C12)=O)CCCP(OCC)(OCC)=O)=O)C | C16H27N4O6P
